US05635477
t-Butyloxycarbonyl-3-aminomethylbenzoic Acid (Boc-Mamb)
The title compound was prepared according to a modification of standard procedures previously reported in the literature (Itoh, Hagiwara, and Kamiya (1975) Tett. Lett., 4393). 3-Aminomethylbenzoic acid (hydrochloride salt) (3.0 g, 16.0 mmol) was dissolved in 60 ml H2O. To this was added a solution of Boc-ON (4.33 g, 17.6 mmol) in 60 ml acetone followed by triethylamine (5.56 ml, 39.9 mmol). The solution turned yellow and the pH was adjusted to 9 (wet pH paper) by adding an additional 1.0 ml (7.2 mmol) triethylamine. The solution was stirred overnight at room temperature at which time the acetone was removed under reduced pressure and the remaining aqueous layer was washed three times with ether. The aqueous layer was then acidified to pH 2 with 2N HCl and then extracted three times with ethyl acetate. The combined organic layers were washed three times with H2O, dried over anhydrous magnesium sulfate, and evaporated to dryness under reduced pressure. The material was recrystallized from ethyl acetate/hexane to give two crops of the title compound (2.58 g, 64%) as an off-white solid. mp 123°-125° C.; 1H NMR (CDCl3) 1.47 (s, 9H), 4.38 (br s, 2H), 4.95 (br s, 1H), 7.45 (t, 1H), 7.55 (d, 1H), 8.02 (d, 2H).

reactant | 3-Aminomethylbenzoic acid | 16.0 mmol, 3.0 g | NCC=1C=C(C(=O)O)C=CC1 | C8H9NO2
reactant | Boc-ON | 17.6 mmol, 4.33 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | triethylamine | 39.9 mmol, 5.56 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 7.2 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | H2O | 60 ml | O | H2O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | t-Butyloxycarbonyl-3-aminomethylbenzoic Acid | 2.58 g, 64% | C(C)(C)(C)OC(=O)C1=C(C(=O)O)C=CC=C1CN | C13H17NO4
